US07314879B2
1-Methoxycarbonylmethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
To 2-bromobenzylamine hydrochloride (125.0 g, 561.8 mmol), in THF/water (1:1, 300 mL), was added potassium carbonate (170.7 g, 1236.0 mmol) and di-tert-butyl dicarbonate (134.9 g, 618.0 mmol), in four portions over 20 minutes. The mixture was stirred at room temperature for 16 h and diluted with 300 mL of EtOAc and 300 mL of water. The organic portion was separated and the aqueous portion was extracted with EtOAc (3×200 mL). The combined EtOAc portions were washed with 250 mL of 10% aqueous sodium bisulfate, dried (MgSO4), and concentrated to dryness to afford 161.0 g of the title compound.

reactant | 2-bromobenzylamine hydrochloride | 561.8 mmol, 125.0 g | Cl.BrC1=C(CN)C=CC=C1
reactant | potassium carbonate | 1236.0 mmol, 170.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 618.0 mmol, 134.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF water | 300 mL | C1CCOC1.O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | water | 300 mL | O | H2O
product | 1-Methoxycarbonylmethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 161.0 g | C(C)(C)(C)OC(=O)N1C(C2=CC=CC=C2C1)CC(=O)OC | C16H21NO4
